US05252540
10.8 g of 2-methoxycarbonylphenylsulfonamide, 8.6 g of 1,5-dimethylpyrazole-3-carbonyl chloride and 13.8 g of potassium carbonate in 200 ml of absolute acetone are refluxed for 8 h. The solvent is removed by distillation and then the residue is taken up in water and the pH is adjusted to 2. The precipitate is filtered off with suction and washed with H2O until neutral. The residue is stirred with ether, filtered off with suction and dried under reduced pressure. 11.6 g of N-(2-methoxycarbonylphenylsulfonyl)-1,5-dimethylpyrazole-3-carboxamide with a melting point of 176°-177° C. are obtained (active ingredient Example No. 40).

reactant | 2-methoxycarbonylphenylsulfonamide | 10.8 g | COC(=O)C1=C(C=CC=C1)S(=O)(=O)N | C8H9NO4S
reactant | 1,5-dimethylpyrazole-3-carbonyl chloride | 8.6 g | CN1N=C(C=C1C)C(=O)Cl | C6H7ClN2O
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | N-(2-methoxycarbonylphenylsulfonyl)-1,5-dimethylpyrazole-3-carboxamide | 11.6 g | COC(=O)C1=C(C=CC=C1)S(=O)(=O)NC(=O)C1=NN(C(=C1)C)C | C14H15N3O5S
